US08022099B2
(3SR,4RS)-3-(3,4-Dichloro-phenyl)-4-[(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amino]-pyrrolidine-1-carboxylic acid 3-chloro-propyl ester
To a stirred solution of 3-chloropropyl chloroformate (0.058 ml, 0.47 mmol) in THF (5 ml) at RT was added over 1 hour a solution of [(3RS,4SR)-4-(3,4-Dichloro-phenyl)-pyrrolidin-3-yl]-(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amine (Intermediate VIII-1, 0.187 g, 0.44 mmol) and triethyl amine (0.068 ml, 0.48 mmol) in THF (2 mL). The reaction was stirred over night, quenched by addition of an aqueous solution of NaHCO3, and the product extracted with EtOAC. The organic phases were concentrated under vacuo to yielded 0.25 g (99%) of the title compound as a light yellow oil. The product was used in the next steps without further purification. ES-MS m/e: 542.7 (M+H+).

reactant | 3-chloropropyl chloroformate | 0.47 mmol, 0.058 ml | ClC(=O)OCCCCl | C4H6Cl2O2
reactant | [(3RS,4SR)-4-(3,4-Dichloro-phenyl)-pyrrolidin-3-yl]-(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amine | 0.44 mmol, 0.187 g | ClC=1C=C(C=CC1Cl)C1C(CNC1)N(C)CC1=CC(=C(C=C1)C(F)(F)F)F | C19H18Cl2F4N2
reactant | triethyl amine | 0.48 mmol, 0.068 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (3SR,4RS)-3-(3,4-Dichloro-phenyl)-4-[(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amino]-pyrrolidine-1-carboxylic acid 3-chloro-propyl ester | 0.25 g, 99% | ClCCCOC(=O)N1CC(C(C1)N(C)CC1=CC(=C(C=C1)C(F)(F)F)F)C1=CC(=C(C=C1)Cl)Cl | C23H23Cl3F4N2O2
